US03993684
2-Furyl acrylic acid was prepared by reaction of furfural and malonic acid. Furfural (19.2 g.), malonic acid (41.6 g.), pyridine (100 ml.), and piperidine (2 ml.) were charged into a 250 ml. round bottom flask and refluxed for 31/2 hours. The reaction solution was worked up in the manner described in Example 41 to isolate 2-furyl acrylic acid.

reactant | furfural | C(C1=CC=CO1)=O | C5H4O2
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | Furfural | 19.2 g | C(C1=CC=CO1)=O | C5H4O2
reactant | malonic acid | 41.6 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2-furyl acrylic acid | O1C(=CC=C1)C(C(=O)O)=C | C7H6O3
